US06093731
A solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(methyl)cycloleucine ethyl ester (80 mg, 0.176 mmol) in NaOH (1 ml, 2N) and MeOH (10 ml) was stirred at 70° C. for 18 h. The cooled mixture was neutralised using HCl (2N), and the MeOH was removed in vacuo. The resulting precipitate was filtered off, washed with water and re-dissolved in concentrated HCl. This solution was evaporated in vacuo, azeotroped with toluene, the residue dissolved in EtOH and filtered. The filtrate was evaporated in vacuo and the resulting solid recrystallised from i-PrOH, to give N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(methyl)cycloleucine hydrochloride (18 mg, 0.039 mmol) as a yellow solid.

reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(methyl)cycloleucine ethyl ester | 0.176 mmol, 80 mg | C(C)OC(C1(N(C)S(=O)(=O)C2=CC=C3C(=CN=C(C3=C2)NC(=N)N)Cl)CCCC1)=O | C19H24ClN5O4S
reactant | HCl | 2N | Cl | ClH
solvent | NaOH | 2N, 1 ml | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(methyl)cycloleucine hydrochloride | 0.039 mmol, 18 mg | Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(C1(CCCC1)C(=O)O)C)NC(=N)N | InChI=1S/C17H20ClN5O4S.ClH/c1-23(17(15(24)25)6-2-3-7-17)28(26,27)10-4-5-11-12(8-10)14(22-16(19)20)21-9-13(11)18;/h4-5,8-9H,2-3,6-7H2,1H3,(H,24,25)(H4,19,20,21,22);1H
